US07799815B2
Preparation 2: diethyl 1-(2-methyl-6-quinolinyl)-1,2-cyclopropanedicarboxylate (P2)
Sodium hydride (0.52 g) was added in small portions to a stirred suspension of trimethylsulfoxonium iodide (2.81 g) in DMSO (28 mL) at room temperature. After 0.5 h, the clear reaction mixture was cooled to 0° C. and a solution of diethyl-2-(2-methyl-6-quinolinyl)-2-butenedioate (2.0 g) in DMSO (14 mL) was quickly added and the stirring continued for 0.5 h after which time water (30 mL) was added. The mixture was extracted twice with ether (30 mL), the organic phase was washed with saturated ammonium chloride, dried over sodium sulphate and evaporated under reduced pressure to give 2 g of the title product which was used without further purification.

reactant | Sodium hydride | 0.52 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 2.81 g | [I-].C[S+](=O)(C)C
reactant | diethyl-2-(2-methyl-6-quinolinyl)-2-butenedioate | 2.0 g | C(C)OC(C(=CC(=O)OCC)C=1C=C2C=CC(=NC2=CC1)C)=O | C18H19NO4
reactant | water | 30 mL | O | H2O
solvent | DMSO | 28 mL | CS(=O)C | C2H6OS
solvent | DMSO | 14 mL | CS(=O)C | C2H6OS
product | diethyl 1-(2-methyl-6-quinolinyl)-1,2-cyclopropanedicarboxylate | 2 g | CC1=NC2=CC=C(C=C2C=C1)C1(C(C1)C(=O)OCC)C(=O)OCC | C19H21NO4
